US04210648
5,11-Dihydro-11-[3-(2-methylpiperidino)propionyl]-6H-pyrido-[2,3-b][1,4]benzodiazepin-6-one
16 gm of 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido [2,3-b]-[1,4]benzodiazepin-6-one were, after addition of 20 ml of 2-methylpiperidine, refluxed for 1 hour in 200 ml of isopropanol, and the reaction mixture was then evaporated in vacuo to dryness. The residue was admixed with water, the mixture was made alkaline by addition of ammonia and extracted with chloroform. The evaporation residue of the chloroform extract was purified on a silica gel column. The eluate was then evaporated in vacuo to dryness, and the residue was recrystallized from isopropanol.

reactant | 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido [2,3-b]-[1,4]benzodiazepin-6-one | 16 gm | ClCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H12ClN3O2
reactant | 2-methylpiperidine | 20 ml | CC1NCCCC1 | C6H13N
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 5,11-Dihydro-11-[3-(2-methylpiperidino)propionyl]-6H-pyrido-[2,3-b][1,4]benzodiazepin-6-one | CC1N(CCCC1)CCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C21H24N4O2
